US03952012
To a suspension of 17.5 g. (0.131 mole) aluminum chloride in 60 ml. 1,2-dichloroethane is added 24 g (0.131 mole) p-isopropylbenzoyl chloride. The resulting mixture is added slowly and dropwise to a chilled solution (0°C.) of 15.7 g. (0.131 mole) 1-methylpyrrole-2-acetonitrile in 100 ml. of 1,2-dichloroethane. After addition is complete, the mixture is stirred at room temperature for twenty minutes and heated at reflux for three minutes. The reaction mixture is then cooled and poured into ice-dilute hydrochloric acid. The organic phase is separated and washed successively with N,N-dimethyl-1,3-propanediamine, dilute hydrochloric acid and a saturated solution of sodium chloride; dried over magnesium sulfate; and the solvent evaporated. The product, 5-(p-isopropylbenzyl)-1-methylpyrrole-2-acetonitrile, is isolated from the residual oil by column chromatography. The column is packed with acid washed alumina and eluted with benzene, ether and etylacetate. The product is found in the first compound-bearing fraction which absorbs ultraviolet light at approximately 250 mμ. It is purified by recrystallization twice in ether: pentane (7g.; 20% yield). m.p. 59°-64°C.

reactant | aluminum chloride | 0.131 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-isopropylbenzoyl chloride | 0.131 mole, 24 g | C(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
reactant | 1-methylpyrrole-2-acetonitrile | 0.131 mole | CN1C(=CC=C1)CC#N | C7H8N2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(p-isopropylbenzyl)-1-methylpyrrole-2-acetonitrile | C(C)(C)C1=CC=C(CC2=CC=C(N2C)CC#N)C=C1 | C17H20N2
